US04450164
8-Benzyloxy-2-chloromethylimidazo[1,2-a]pyridine
A mixture of 8-benzyloxy-2-hydroxymethylimidazo[1,2-a]pyridine (2 g) and phosphorylchloride (10 ml) was heated on a steam bath for 1 hr. Excess phosphoryl chloride was distilled off in vacuo, the solid residue triturated with acetonitrile and the mixture filtered to give the title product as the hydrochloride salt.

reactant | 8-benzyloxy-2-hydroxymethylimidazo[1,2-a]pyridine | 2 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=C(N2)CO | C15H14N2O2
reactant | phosphorylchloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Benzyloxy-2-chloromethylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=C(N2)CCl | C15H13ClN2O
